US05066680
To a solution of N-(4-dimethylamino-2-butynyl)-2-hydroxy-2,2-diphenylacetamide (0.35 g) in methanol (5 ml) was added 6.4N methanolic hydrogen chloride (3ml) and the solution was evaporated in vacuo. The residue was dissolved in chloroform and the solution was evaporated in vacuo. The oily residue was crystallized from a mixture of isopropyl alcohol and ethyl acetate to give N-(4-dimethylamino-2-butynyl)-2-hydroxy-2,2-diphenylacetamide hydrochloride (0.21 g).

reactant | N-(4-dimethylamino-2-butynyl)-2-hydroxy-2,2-diphenylacetamide | 0.35 g | CN(CC#CCNC(C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O)C | C20H22N2O2
reactant | hydrogen chloride | 6.4N, 3ml | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | N-(4-dimethylamino-2-butynyl)-2-hydroxy-2,2-diphenylacetamide hydrochloride | 0.21 g | Cl.CN(CC#CCNC(C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O)C | InChI=1S/C20H22N2O2.ClH/c1-22(2)16-10-9-15-21-19(23)20(24,17-11-5-3-6-12-17)18-13-7-4-8-14-18;/h3-8,11-14,24H,15-16H2,1-2H3,(H,21,23);1H
